US07329752B2
a. Preparation of N-isopropyl-N-(2-nitrophenyl)amine
To a cold solution of 2-fluoro-nitrobenzene (31.8 g, 0.225 mol) in ethanol (300 mL) cooled in an ice bath was added isopropylamine (54.0 mL, 0.634 mol), followed by the addition of a solution of potassium carbonate (31.1 g, 0.225 mol) in water (120 mL). The mixture was stirred at 0° C. for 1 h, then refluxed for 6 h. The reaction was terminated by cooling the mixture to ambient temperature, and evaporating it under reduced pressure yielding an orange residue. The residue was partitioned between ethyl ether (800 mL) and a brine solution (300 mL). The organic layer was dried and filtered, to provide the title intermediate (39 g) as an orange liquid. 1H-NMR (CDCl3, 300 MHz): δ (ppm) 8.06 (d, 1H), 7.30 (t, 1H), 6.74 (d, 1H), 6.48 (t, 1H), 3.73 (hept, 1H), 1.20(d, 6H).

reactant | 2-fluoro-nitrobenzene | 0.225 mol, 31.8 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | isopropylamine | 0.634 mol, 54.0 mL | C(C)(C)N | C3H9N
reactant | potassium carbonate | 0.225 mol, 31.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | water | 120 mL | O | H2O
product | N-isopropyl-N-(2-nitrophenyl)amine | 39 g | C(C)(C)NC1=C(C=CC=C1)[N+](=O)[O-] | C9H12N2O2
